spice
* SPICE Netlist for the given schematic
* NMOS Transistors
M1 net5 Vin 5 5 NMOS
M2 net5 net2 5 5 NMOS
* PMOS Transistors
M3 net4 net2 net4 net4 PMOS
M4 net4 net6 net2 net2 PMOS
M5 net2 net3 net4 net4 PMOS
* Current Source
Iss net5 0 DC 1mA
* Voltage Source
? Missing component
* Define Models for Transistors
.model NMOS NMOS (level=1)
.model PMOS PMOS (level=1)
* Simulation Commands
.END
