* Amplifier Circuit Netlist
? Missing component
Iin 1 0 DC 1mA
RC 2 3 1k
RF 2 5 10k
RM 4 3 500
Q1 5 1 2 NMOS
Q2 4 2 0 PMOS
Vout 4 0 
.model NMOS NMOS (level=1)
.model PMOS PMOS (level=1)
.end
