spice
* SPICE Netlist for the given circuit
* Components
I1 4 5 DC 0         * Current Source I_in
? Missing component
M1 2 3 0 0 NMOS     * NMOS Transistor M1 with D, G, S, B terminals
R1 2 3 RF           * Resistor R_F
* Node Assignments
* 0 - Ground
* 1 - Vout (not directly used in netlist)
* 2 - Node at VDD and one side of RF
* 3 - Node at Gate of M1 and one side of RF
* 4 - Node from I_in
* 5 - Ground connection for I_in
.end
