plaintext
* SPICE Netlist
VDD 5 0 DC 5V
* Transistors
M1 5 3 0 0 NMOS
M2 2 3 5 5 PMOS
* Resistors
RD 5 2 10k
RF 3 4 10k
* Current Source
Iin 3 0 DC 1mA
* Voltage Source
? Missing component
* Simulation
.op
.end
