spice
* Components
MNQ1 4 2 3 3 NMOS
D1 3 0 laser_diode
RM 3 0 1k
* Voltage Sources
? Missing component
VIN 2 0 DC 1.2V
* Model definitions
.model NMOS nmos level=1
.model laser_diode D
.end
