spice
* NMOS Transistor
M1 2 0 0 0 NMOS_MODEL
* Resistor
RD 3 2 10k
* Capacitor
CL 2 0 1uF
* Voltage Sources
VDD 3 0 DC 5V
? Missing component
* Model declaration (You may need to replace this with actual model parameters)
.model NMOS_MODEL NMOS (level=1)
