* Transistor Definitions
M1 3 Vin 0 0 NMOS
M2 Vout 2 VDD VDD PMOS
* Voltage Sources
Vin Vin 0 DC 0
VDD VDD 0 DC VDD_value
? Missing component
* End of Netlist
