spice
* Node Assignments:
* A = 1
* B = 2
* Vout = 3
* VDD = 4
* Ground = 0
M1 3 1 0 0 NMOS
M2 3 2 0 0 NMOS
M3 4 1 3 3 PMOS
M4 4 2 3 3 PMOS
? Missing component
* Example device model (parameters might need adjustment)
.model NMOS nmos (level=1)
.model PMOS pmos (level=1)
