spice
* NMOS Transistor
M1 Vout Vin 0 0 NMOS_MODEL
* Resistor
RD Vout 0 1k
* Voltage Sources
VDD 2 0 DC 5V
? Missing component
* Model Declaration
.model NMOS_MODEL NMOS ( LEVEL=1 VTO=0.7 KP=30u LAMBDA=0.02)
.END
