* SPICE Netlist for the given schematic
? Missing component
* Resistors
R1 7 3 1k
RD 7 2 1k
R2 3 5 1k
* Capacitors
C1 8 3 1u
C2 2 4 1u
* NMOS Transistor
M1 2 3 2 2 NMOS_MODEL
* NMOS Model
.model NMOS_MODEL NMOS (LEVEL=1)
* .end
