spice
* SPICE Netlist
VDD 3 0 DC 5V
? Missing component
R1 3 4 1k
RD 3 2 1k
R2 4 0 1k
RS 2 0 500
M1 2 4 0 0 NMOS
C1 in 4 10uF
.model NMOS NMOS(L=1u W=1u)
.end
