* SPICE Netlist
* Voltage Source
? Missing component
* Capacitor
C1 3 2 C
* Resistor
R1 2 5 R
* Operational Amplifier
* Positive input is connected to ground
* Negative input node is 2, output node is 5
XU1 2 2 5 OPAMP
* Ground Reference
V2 2 0 DC 0
.end
