plaintext
* SPICE Netlist for the given schematic
M1 VDD Vin N1 N1 NMOS
M2 N1 Vb 0 0 NMOS
M3 N1 Vout 0 0 NMOS
VDD VDD 0 DC 5V
Vin Vin 0 DC 1V
Vb Vb 0 DC 1V
? Missing component
* Model definitions
.model NMOS NMOS (Level=1)
