* NMOS transistor M1
M1 out Vin 4 4 NMOS
* PMOS transistor M2
M2 3 out 2 3 PMOS
* Voltage Source VDD
VDD 3 0 DC 1.8V
* Voltage Source Vin
? Missing component
