spice
* NMOS Transistor
M1 3 1 2 2 NMOS
* Current Source
I1 2 0 DC 1mA
* Capacitor
C1 4 1 1uF
* Resistor
RD 2 32 1k
* Voltage Source (Input)
Vin 4 0 DC 0V
* Supply Voltage
? Missing component
* Simulation Commands
.control 
tran 1n 10u
.endc
.end
