spice
* Transistor Definitions
M1 N_OUT V_IN N2 N2 NMOS
M2 V_OUT N_OUT V_DD V_DD PMOS
* Resistor
RD V_OUT N2 RD_VALUE
* Voltage Sources
VDD V_DD 0 DC VDD_VALUE
VIN V_IN 0 DC VIN_VALUE
? Missing component
* Node Names
* V_IN: Input Voltage
* V_B: Bias Voltage
* V_DD: Supply Voltage
* V_OUT: Output Voltage
* N_OUT: Node connecting M1 and M2
* N2: Node connecting M1 and RD
.end
