spice
* NMOS Transistor
M1 2 4 4 NMOS
* Current Source
I1 5 3 DC 1mA
* Resistor
R_L 2 6 1k
* Voltage Source
? Missing component
Vin 4 0 DC 1V
* Simulation Commands
.tran 1n 100n
.end
