* Circuit Description
? Missing component
* PMOS Transistor: M1
M1 Vout Vin VDD VDD PMOS
* NMOS Transistor: M2
M2 Vout Vb 0 0 NMOS
* Model Definitions
.model PMOS PMOS
.model NMOS NMOS
