* SPICE Netlist for CMOS Inverter
* Components
I1 4 5 DC IBIAS
? Missing component
* PMOS Transistors
M1 4 4 6 6 PMOS
M2 3 4 22 22 PMOS
* NMOS Transistors
M3 4 6 7 7 NMOS
M4 8 6 7 7 NMOS
* Output connection
* Node 3 connects to the output
* Node 22 is the ground
