* PMOS Transistors
MMP1 4 4 4 V_DD PMOS
MMP2 4 4 4 V_DD PMOS
MMP3 7 4 5 V_DD PMOS
MMP4 5 4 5 V_DD PMOS
MMP5 6 5 6 V_DD PMOS
MMP6 6 3 6 V_DD PMOS
MMP7 3 3 3 V_DD PMOS
MMP8 3 3 3 V_DD PMOS
* NMOS Transistors
MMN1 2 5 4 V_SS NMOS
MMN2 5 6 5 V_SS NMOS
MMN3 5 6 5 V_SS NMOS
MMN4 6 7 5 V_SS NMOS
MMN5 5 8 5 V_SS NMOS
MMN6 5 8 5 V_SS NMOS
* Current Source
I_IBIAS 1 4 DC IBIAS
* Voltage Sources
V_VBIAS V_BIAS 4 DC V_BIAS
V_VSS 8 0 DC V_SS
V_VDD V_DD 0 DC V_DD
V_VBIASN1 V_BIASN1 5 DC V_BIASN1
V_VBIASN2 V_BIASN2 6 DC V_BIASN2
? Missing component
.model PMOS PMOS
.model NMOS NMOS
