* MOSFETs
M1 6 6 8 8 NMOS
M2 6 6 8 8 NMOS
M3 0 3 5 5 NMOS
M4 5 3 5 5 NMOS
M5 2 3 5 5 NMOS
M6 2 3 5 5 NMOS
M7 2 24 2 2 PMOS
M8 2 24 2 2 PMOS
M9 2 20 2 2 PMOS
M10 2 2 2 2 PMOS
M11 24 2 6 6 PMOS
M12 2 2 24 6 PMOS
M13 24 3 0 0 NMOS
M14 2 3 0 0 NMOS
MB1 2 6 6 6 PMOS
* Voltage Sources
V_IN+ 6 0 DC 0
V_IN- 6 0 DC 0
V_BIAS1 3 0 DC 0
V_BIAS2 24 0 DC 0
V_BIAS3 20 0 DC 0
V_BIAS4 6 0 DC 0
? Missing component
V_DD 2 0 DC 0
V_SS 5 0 DC 0
* Capacitors
C_C1 24 20 1u
C_C2 2 20 1u
C_C3 24 20 1u
.END
