spice
* NMOS transistor M1
M1 4 3 2 2 NMOS
* Resistors
R1 5 3 <R1_value>
R2 3 2 <R2_value>
* Current source
Ix 4 5 DC <Ix_value>
* Voltage source
Vx 2 0 DC <Vx_value>
* Supply voltage
? Missing component
.model NMOS NMOS (LEVEL=1)
