* NMOS Transistor
M1 2 Vin 4 4 NMOS
* Voltage Sources
Vin Vin 0 DC 0
? Missing component
* Resistor
R1 2 3 10k
* DC Analysis
.DC V2 0 5 0.1
* Model Definitions
.model NMOS NMOS
.end
