plaintext
* SPICE Netlist
VDD VDD 0 DC 0
V1 N1 0 DC 2
V2 N2 0 DC 1
? Missing component
M1 Vout N3 N2 N2 NMOS
R1 VDD Vout 1k
* Components
VDD VDD 0 DC 5
V1 N1 0 DC 2
? Missing component
* Analysis
.op
.end
