spice
* Transistors
M1 4 1 5 5 NMOS
M2 4 1 2 2 PMOS
* Voltage Source
V1 1 7 DC VG
* Current Source
I1 0 2 DC IX
* Voltage Source
? Missing component
* Simulation Commands
.END
