* MOSFETs
M1 6 0 33 33 NMOS
M2 6 66 33 33 NMOS
M3 3 3 33 33 PMOS
M4 3 3 33 33 PMOS
M5 6 6 33 33 PMOS
M6 3 3 7 7 PMOS
M7 7 0 33 33 NMOS
M8 8 0 33 33 NMOS
M9 3 3 22 22 PMOS
M10 28 3 22 22 PMOS
M11 22 4 33 33 NMOS
M12 42 4 33 33 NMOS
* Capacitors
C1 2 2 1u
C2 2 2 1u
* Voltage Sources
VDD 3 0 DC 5V
? Missing component
VBIAS1 6 0 DC 1.5V
VBIAS2 3 3 DC 1.5V
VBIAS3 22 0 DC 1.5V
VBIAS4 4 0 DC 1.5V
.end
