spice
* NMOS Transistor M1
M1 4 2 6 6 NMOS
* PMOS Transistor M2
M2 4 2 3 3 PMOS
* Voltage Source
? Missing component
* Nodes:
* 2: VB
* 3: VDD
* 4: Vout
* 6: Ground
.END
