plaintext
* NMOS Transistors
M3 3 1 2 2 NMOS
M2 3 5 2 2 NMOS
* Resistor
RD 3 4 1k
* Voltage Source
? Missing component
* Voltage node annotations
Vb 1 0 DC 1.5V
Vin 5 0 DC 2V
* Output node
Vout 3
* End of netlist
.end
