* SPICE Netlist for the schematic
VDD 2 0 DC 5V
? Missing component
Vb Vb 0 DC 1V
M1 2 Vin 3 3 NMOS
M2 3 Vb 0 0 NMOS
RL 3 Vout 1k
.MODEL NMOS NMOS
.END
