plaintext
* SPICE Netlist
M2 2 3 4 4 PMOS
M1 2 1 0 0 NMOS
? Missing component
Vb 3 0 DC 1.8V
Vin 1 0 DC 1.5V
*.model PMOS PMOS (LEVEL=1)
*.model NMOS NMOS (LEVEL=1)
.end
