plaintext
*MOSFET circuit
M2 4 2 1 1 PMOS
M1 4 3 6 6 NMOS
I1 6 0 DC 1A
C1 6 0 1pF
? Missing component
VIN 3 0 DC 1V
.model PMOS PMOS
.model NMOS NMOS
