spice
* SPICE Netlist
VCC 2 0 DC 10V
VBias1 3 0 DC 1V
IBIAS 3 0 DC 1mA
? Missing component
VR2 5 6 DC 5V
Q1 4 3 5 QMODEL
Q2 6 4 5 QMODEL
Q5 4 2 3 QMODEL
R1 5 4 1k
R2 5 6 1k
.model QMODEL NPN (IS=1e-14 BF=100 VAF=100)
.end
