spice
* NMOS and PMOS model parameters
.model NMOS NMOS
.model PMOS PMOS
* Components
M1 0 2 0 0 NMOS  ; NMOS: Drain=0, Gate=2, Source=0, Body=0
M2 2 1 2 2 PMOS  ; PMOS: Drain=2, Gate=1, Source=2, Body=2
I1 1 5 DC  ; Current source from Node 5 to Node 1 (DC current source)
? Missing component
* Voltage supply
VDD 1 0 DC  ; Supply voltage VDD
* End of netlist
