spice
* Transistors
M1 2 Vin 0 0 NMOS
M2 3 2 VDD VDD PMOS
M3 2 3 VDD VDD PMOS
* Current Source
I1 2 0 DC 1mA
* Voltage Sources
VDD VDD 0 DC 5V
Vin Vin 0 DC 2.5V
* Output
? Missing component
* Analysis
.TRAN 1n 10u
