plaintext
* Example SPICE netlist
? Missing component
Vin1 4 0 DC 0V
Vin2 2 0 DC 0V
RD1 5 3 1k
RD2 6 3 1k
M1 5 4 8 8 NMOS
M2 6 2 7 7 NMOS
.model NMOS NMOS LEVEL=1
.END
