spice
* NMOS Differential Pair with Current Source
M1 3 7 8 8 NMOS
M2 2 3 8 8 NMOS
RD1 6 4 RD
RD2 5 4 RD
? Missing component
ISS 8 0 DC ISS
Vin1 7 0 DC Vin1
Vin2 2 0 DC Vin2
* Define models
.model NMOS NMOS(level=1)
.end
