* NMOS Transistors
M1 8 4 9 9 NMOS
M2 3 2 9 9 NMOS
* Resistors
RD1 5 8  RD1_VALUE
RD2 5 3  RD2_VALUE
* Current Source
I1 0 9  ISS_VALUE
* Voltage Sources
V1 4 0  VIN1_VALUE
V2 0 2  VIN1_VALUE
? Missing component
* Model Definitions
.model NMOS NMOS_LEVEL
