spice
* Components
M1 2 3 4 4 NMOS
M2 2 5 4 4 NMOS
I1 4 0 DC I_SS
V1 3 6 DC (Vin1-Vin2)/2
V2 6 0 DC (Vin1+Vin2)/2
V3 5 0 DC (Vin2-Vin1)/2
? Missing component
* Connections
* M1 Drain: 2, Gate: 3, Source: 4
* M2 Drain: 2, Gate: 5, Source: 4
* Current Source I1 connected between 4 and ground
* Voltage source V1 connected between nodes 3 and 6
* Voltage source V2 connected between nodes 6 and ground
* Voltage source V3 connected between 5 and ground
* Voltage source V4 connected between 5 and ground
.END
