plaintext
*** SPICE Netlist ***
* NMOS Transistors
M1 7 6 4 4 NMOS
M2 4 2 4 4 NMOS
* Resistors
RD1 3 7 RD
RD2 5 4 RD
ro1 7 4 ro1
ro2 4 2 ro2
* Current Source
I1 4 0 ISS
* Voltage Sources
? Missing component
V2 6 0 DC 0
V3 2 0 DC 0
* Definitions
.model NMOS NMOS
