spice
* SPICE Netlist
* NMOS Transistors
M1 5 5 4 4 NMOS
M2 2 2 4 4 NMOS
* Resistors
RD1 6 5 RD
RD2 6 2 RD
RS1 5 4 RS
RS2 2 4 RS
* Current Source
ISS 4 0 DC ...
* Voltage Sources
Vin1 5 0 DC ...
? Missing component
VDD 6 0 DC ...
* Model Definitions
.model NMOS NMOS (LEVEL=1 ...)
.END
