spice
* SPICE Netlist
* VDD connected to node 4
VDD 4 0 DC Vdd_value
* Current source I_REF
IREF 4 4 DC Iref_value
* PMOS M0: Drain=4, Gate=2, Source=4
M0 4 2 4 4 PMOS_MODEL
* NMOS M1: Drain=3, Gate=2, Source=5
M1 3 2 5 5 NMOS_MODEL
* Node voltages
? Missing component
* End of netlist
.end
