* Transistor Q25
M25 2 0 3 3 NMOS
* Transistor Q26
M26 6 0 3 3 NMOS
* Transistor Q27
M27 7 0 8 8 NMOS
* Transistor Q28
M28 7 0 8 8 NMOS
* Transistor Q39
M39 2 3 8 8 NMOS
* Transistor Q40
M40 3 4 8 8 NMOS
* Resistor R_up1
Rup1 3 33 5MEG
* Resistor R_up2
Rup2 33 6 5MEG
* Resistor R39
R39 2 3 2.5k
* Resistor R40
R40 4 8 2.5k
* Voltage Source a_21*v9
? Missing component
* Voltage Source a_22*v10
Va22 3 8 DC v10
* Voltage Source Vi40
Vi40 2 4 DC v40
.END
