* NMOS Transistors
M1 9 10 2 2 NMOS
M2 4 9 2 2 NMOS
* PMOS Transistors
M3 6 5 2 2 PMOS
M4 7 5 2 2 PMOS
* Voltage Source
VDD 5 0 DC <voltage_value>
* Current Source
ISS 2 0 DC <current_value>
* Input
? Missing component
* Output
Vout1 2 0
* Other Parameters
.model NMOS NMOS(<model_parameters>)
.model PMOS PMOS(<model_parameters>)
.end
