spice
* SPICE netlist for the differential pair circuit
VDD 5 0 DC <value>
Vin_left 2 0 DC <value>
? Missing component
Iss 8 0 DC <value>
M1 2 1 8 8 NMOS
M2 3 1 8 8 NMOS
M3 5 2 1 1 PMOS
M4 3 3 5 5 PMOS
* Simulation commands
.options TEMP=27
