plaintext
* SPICE Netlist
M1 6 0 0 NMOS
M2 3 4 0 NMOS
M3 2 5 2 PMOS
M4 2 4 2 PMOS
? Missing component
Vin1 0 6 DC Vin/2
Vin2 4 0 DC Vin/2
Iout 2 3 DC Iout
*.model NMOS NMOS level=1
*.model PMOS PMOS level=1
.END
