* SPICE Netlist for the Schematic
? Missing component
I_REF 7 5 DC # Current source I_REF connected between node 7 and 5
R1 5 6  # Resistor R1 connected between node 5 and 6
R2 7 2  # Resistor R2 connected between node 7 and 2
M1 2 6 0 NMOS # NMOS M1 with drain 2, gate 6, source 0
M2 2 4 0 NMOS # NMOS M2 with drain 2, gate 4, source 0
* Power supply
VDD 5 0 DC  # VDD provided at node 5
