* Transistors
M1 4 Y 0 0 NMOS
M2 5 X 4 5 PMOS
M3 Y 4 5 5 PMOS
* Capacitor
C1 Y 0
* Voltage Source
? Missing component
* Nodes
* Node labels based on annotations:
* X = Gate of M2
* Y = Node connected to drain of M1
