* MOSFET Specifications
M1 3 5 6 6 NMOS
M2 4 2 6 6 NMOS
M3 6 3 8 8 PMOS
M4 4 3 7 7 PMOS
* Resistor
R1 6 3 R1_value
* Current Source
I1 6 0 DC ISS_value
* Voltage Source
? Missing component
* Inputs
Vin1 5 0 DC Vin1_value
Vin2 2 0 DC Vin2_value
* Outputs
Vout 4 0
.END
