plaintext
* NMOS Transistor
M1 2 3 5 5 NMOS_Model
* Resistor
RD 2 1 10k
* Capacitor
CDB 2 7 1p
* Voltage Source
VDD 1 0 DC 5V
* Input
? Missing component
* Models
.model NMOS_Model NMOS (Level=1)
