plaintext
* SPICE Netlist
* Voltage Sources
V1 Vin 2 DC 0
? Missing component
* Resistor
RS X 2 1k
* MOSFETs
M1 Y X VDD VDD PMOS
M2 Y X 4 4 NMOS
* Current Source
I1 Y 3 DC I_value
* Capacitor
CL Y 4 10p
* Connections
* Vin - input voltage to gate of M2
* VDD - positive voltage supply
* Vout - output voltage at node Y
.end
