spice
* Example SPICE Netlist
? Missing component
VEE 0 5 DC -1
Q1 7 3 8 QMOD
Q2 2 4 7 QMOD
Q3 7 3 3 QMOD
Q4 8 3 3 QMOD
Q5 2 6 7 QMOD
Q6 7 5 5 QMOD
Q7 2 2 5 QMOD
Q8 2 6 7 QMOD
Q9 2 2 2 QMOD
.model QMOD NPN
