* SPICE netlist
M1 4 6 2 2 NMOS
M2 3 2 1 3 PMOS
I1 2 2 DC 1mA
C1 4 2 1uF
RD 5 3 1kOhm
? Missing component
.model NMOS NMOS (Level=1)
.model PMOS PMOS (Level=1)
*.end
