spice
* Netlist for the given schematic
M1 5 6 0 0 NMOS
M2 5 1 3 3 PMOS
RD 3 4 10k
? Missing component
Vb 1 0 DC 1.8V
Vin 6 0 DC 
.model NMOS nmos
.model PMOS pmos
.end
